US07368454B2
c) (3,4-Dihydro-quinazolin-2-yl)-(3-trifluoromethyl-phenyl)-amine
Under an atmosphere of nitrogen, sodium hydroxide (0.1 ml, solution in water, 20 mol/l, 2 mmol) was added to a solution of 2-aminobenzylamine (92 mg, 0.75 mmol) in DMSO (1 ml). After 30 min, a solution of (3-trifluoromethyl-phenyl)-dimethyl-dithiocarbonimidate (200 mg, 0.75 mmol) in DMSO (1 ml) was added, and the mixture was heated to 190° C. for 3 h. The title compound (50 mg, 23%, MS: m/e=292.1 [M+H+]) was isolated from the reaction mixture by preparative, reverse phase HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | sodium hydroxide | 2 mmol, 20 mol/l, 0.1 ml | [OH-].[Na+]
reactant | 2-aminobenzylamine | 0.75 mmol, 92 mg | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | (3-trifluoromethyl-phenyl)-dimethyl-dithiocarbonimidate | 0.75 mmol, 200 mg | FC(C=1C=C(C=CC1)N=C([S-](C)C)[S-])(F)F
reactant | CH3CN | CC#N | C2H3N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3,4-Dihydro-quinazolin-2-yl)-(3-trifluoromethyl-phenyl)-amine | 50 mg, 23% | N1=C(NCC2=CC=CC=C12)NC1=CC(=CC=C1)C(F)(F)F | C15H12F3N3
